US04535161
1.0 g of 5,6-difluoro-2-methylquinoline was dissolved in 30 ml of chloroform and then a mixture of 20 ml of chloroform and 1.0 g of 3-chloroperbenzoic acid was added dropwise thereto under cooling in an ice bath. The resulting mixture was stirred for 2 hours at 0° C. and for additional one hour at room temperature. The reaction mixture was washed twice with a saturated aqueous solution of sodium bicarbonate and washed with a saturated aqueous solution of sodium chloride. After drying, the solvent was distilled off in vacuo and the residue was purified by silica gel column chromatography to give 830 mg of 5,6-difluoro-2-methylquinoline-1-oxide. The product was recrystallized from a mixture of benzene and hexane to give a white powder with mp 125°-127° C.

reactant | 5,6-difluoro-2-methylquinoline | 1.0 g | FC1=C2C=CC(=NC2=CC=C1F)C | C10H7F2N
reactant | 3-chloroperbenzoic acid | 1.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,6-difluoro-2-methylquinoline-1-oxide | 830 mg | FC1=C2C=CC(=[N+](C2=CC=C1F)[O-])C | C10H7F2NO
